US08022076B2
A stirred mixture of 4-chloro-5-phenylthieno[2,3-d]pyrimidine (2.2 g, 0.009 mol), furfurylamine (1.26 g, 0.013 mol), triethylamine (1.3 g) and ethanol (20 ml) was heated under reflux for 2 hours then cooled to ambient temperature and poured into water (50 ml). The resulting solid was collected by filtration, washed with water (30 ml), dried in vacuo and crystallised from a mixture of hexane and toluene to give furan-2-ylmethyl-(5-phenyl-thieno[2,3-d]pyrimidin-4-yl)-amine as a pale yellow solid, m.pt. 77-79° C.

reactant | 4-chloro-5-phenylthieno[2,3-d]pyrimidine | 0.009 mol, 2.2 g | ClC=1C2=C(N=CN1)SC=C2C2=CC=CC=C2 | C12H7ClN2S
reactant | furfurylamine | 0.013 mol, 1.26 g | C(C1=CC=CO1)N | C5H7NO
reactant | triethylamine | 1.3 g | C(C)N(CC)CC | C6H15N
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | furan-2-ylmethyl-(5-phenyl-thieno[2,3-d]pyrimidin-4-yl)-amine | O1C(=CC=C1)CNC=1C2=C(N=CN1)SC=C2C2=CC=CC=C2 | C17H13N3OS
